US05302608
A mixture consisting consisting of 2-amino-4-(5,6,7,8-tetrahydro-2-naphthyl)thiazole (500 mg), benzoylisothiocyanate (363 mg) and acetone (10 ml) was stirred at 55° to 60° C. for 3 hours and then concentrated under reduced pressure. The residue was treated with ether, and the resultant crystals were recrystallized from chloroform-ethanol to produce 1-benzoyl-3-[4-(5,6,7,8-tetrahydro-2-naphthyl)-2-thiazolyl] thiourea (yield of 583 mg, 68.2%) in the form of colorless prisms. m.p., 181°-182° C.

reactant | 2-amino-4-(5,6,7,8-tetrahydro-2-naphthyl)thiazole | 500 mg | NC=1SC=C(N1)C1=CC=2CCCCC2C=C1 | C13H14N2S
reactant | benzoylisothiocyanate | 363 mg | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 1-benzoyl-3-[4-(5,6,7,8-tetrahydro-2-naphthyl)-2-thiazolyl] thiourea | yield of 583 mg, 68.2% | C(C1=CC=CC=C1)(=O)NC(=S)NC=1SC=C(N1)C1=CC=2CCCCC2C=C1 | C21H19N3OS2
